US08937087B2
To a mixture of N-[(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)acetyl]-N-methylglycine (90 mg), 4,5-dichlorobenzene-1,2-diamine (53 mg), and DMF (3 mL) were added TEA (95 μL), HOBt (43 mg), and WSC.HCl (60 mg), followed by stirring at room temperature overnight. The reaction mixture was diluted with EtOAc. The organic layer was washed with water, a saturated aqueous NaHCO3 solution, and brine in this order, dried over Na2SO4, and then concentrated under reduced pressure. To the residue was added acetic acid (3 mL), followed by heating and stirring at 110° C. for 5 hours. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure. The residue was diluted with EtOAc. The organic layer was washed with a saturated aqueous NaHCO3 solution and brine in this order, dried over Na2SO4, and then concentrated under reduced pressure. The resulting solid was collected by filtration and then washed with MeOH to obtain 2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-[(5,6-dichloro-1H-benzimidazol-2-yl)methyl]-N-methylacetamide (54 mg).

reactant | N-[(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)acetyl]-N-methylglycine | 90 mg | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N(CC(=O)O)C)C1 | C12H11ClN2O4S
reactant | 4,5-dichlorobenzene-1,2-diamine | 53 mg | ClC=1C=C(C(=CC1Cl)N)N | C6H6Cl2N2
reactant | HOBt | 43 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 60 mg | CCN=C=NCCCN(C)C.Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-[(5,6-dichloro-1H-benzimidazol-2-yl)methyl]-N-methylacetamide | 54 mg | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N(C)CC2=NC3=C(N2)C=C(C(=C3)Cl)Cl)C1 | C18H13Cl3N4O2S
